US05672588
2-Chloro-N-(2-phenoxyethyl)adenosine
The title compound was prepared by reacting 2-phenoxyethylamine hydrochloride (0.80 g, 4.6 mmol) with 9-(2,3,5-tri- O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine (2.0 g, 3.2 mmol) in dioxan (25 ml) in the presence of triethylamine (1.0 g, 9.6 mmol) followed by deprotection of the purified product using methanolic ammonia to provide the title nucleoside (0.75 g, 60%)(following flash chromatography) as an amorphous foam, 1H NMR (DMSO-d6)δ 3.52-3.59 (1H, m, H-5'a), 3.64-3.71 (1H, m, H-5'b), 3.82 (2H, q, --OH2 --), 3.96 (1H, q, H-4'), 4.14 (1H, m, H-3'), 4.52 (1H, q, H-2'), 5.12 (1H, t, 5'-0H), 5.25, 5.54 (2H, 2d, 2'- and 3'-OH), 5.85 (1H, d, H-1'), 6.92-7.02 (3H, m, Ar--H), 7.26-7.34 (2H, t, Ar--H), 8.46 (1H, m, H-8), 8.56 (1H, br, t, N--H).

reactant | 2-phenoxyethylamine hydrochloride | 4.6 mmol, 0.80 g | Cl.O(C1=CC=CC=C1)CCN
reactant | 9-(2,3,5-tri- O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine | 3.2 mmol, 2.0 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C31H22Cl2N4O7
reactant | triethylamine | 9.6 mmol, 1.0 g | C(C)N(CC)CC | C6H15N
reactant | ammonia | N | H3N
solvent | dioxan | 25 ml | O1CCOCC1 | C4H8O2
product | 2-Chloro-N-(2-phenoxyethyl)adenosine | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)NCCOC1=CC=CC=C1 | C18H20ClN5O5
